US07745641B2
3-Amino-4-iodo-6-bromophthalimide (500 mg, 1.36 mmol) was dissolved in acetonitrile (25 mL), and the solution was added with methyl acrylate (0.245 mL, 2.72 mmol), palladium acetate (24 mg, 0.11 mmol) and triethylamine (1.90 mL, 13.6 mmol), followed by stirring under reflux for 5 hours under argon atmosphere. The mixture was added with methyl acrylate (0.122 mL, 1.36 mmol), palladium acetate (24 mg, 0.11 mmol) and triethylamine (1.90 mL, 13.6 mmol) and further stirred for 142 hours. The mixture was added with methyl acrylate (0.245 mL, 2.72 mmol), palladium acetate (24 mg, 0.11 mmol) and triethylamine (0.95 mL, 6.8 mmol) and further stirred for 20 hours. The reaction mixture was added with water, extracted with ethyl acetate. The organic layer was washed with saturated brine and dried over sodium sulfate. The solvent was evaporated under reduced pressure and the residue was purified by slurry using chloroform to obtain (E)-3-amino-4-(2-methoxycarbonylvinyl)-6-bromophthalimide (313 mg, yield 71%).

reactant | 3-Amino-4-iodo-6-bromophthalimide | 1.36 mmol, 500 mg | NC1=C2C(C(=O)NC2=O)=C(C=C1I)Br | C8H4BrIN2O2
reactant | methyl acrylate | 2.72 mmol, 0.245 mL | C(C=C)(=O)OC | C4H6O2
reactant | triethylamine | 13.6 mmol, 1.90 mL | C(C)N(CC)CC | C6H15N
reactant | methyl acrylate | 1.36 mmol, 0.122 mL | C(C=C)(=O)OC | C4H6O2
reactant | triethylamine | 13.6 mmol, 1.90 mL | C(C)N(CC)CC | C6H15N
reactant | methyl acrylate | 2.72 mmol, 0.245 mL | C(C=C)(=O)OC | C4H6O2
reactant | triethylamine | 6.8 mmol, 0.95 mL | C(C)N(CC)CC | C6H15N
reactant | water | O | H2O
solvent | acetonitrile | 25 mL | C(C)#N | C2H3N
catalyst | palladium acetate | 0.11 mmol, 24 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
catalyst | palladium acetate | 0.11 mmol, 24 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
catalyst | palladium acetate | 0.11 mmol, 24 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | (E)-3-amino-4-(2-methoxycarbonylvinyl)-6-bromophthalimide | 313 mg, yield 71% | NC1=C2C(C(=O)NC2=O)=C(C=C1\C=C\C(=O)OC)Br | C12H9BrN2O4
